US06723332B2
A mixture of bromoacetaldehyde diethyl acetal (20 mL), concentrated hydrobomic acid (5 mL) and water (20 mL) is heated at 90° C. for 1.5 h. The reaction mixture is poured into 250 mL of water and 50 g sodium bicarbonate is gradually added. 2-Amino-6-bromo-4-methylpyridine (3 g, 0.016 mol) is then added and the mixture is stirred at room temperature for 3 h. Ethyl acetate (100 mL) and water (50 mL) are added. The organic layer is separated and extracted with hydrochloric acid (1N, 3×100 mL). The combined aqueous layer is neutralized with ammonium hydroxide at 0° C. and extracted with dichloromethane (3×200 mL). The combined organic layer is dried over sodium sulfate. Evaporation of the solvent gave 5-bromo-7-methylimidazo[1,2-a]pyridine (2.95 g, 76%) as a white solid, m.p. 53-54° C.

reactant | bromoacetaldehyde diethyl acetal | 20 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | 2-Amino-6-bromo-4-methylpyridine | 0.016 mol, 3 g | NC1=NC(=CC(=C1)C)Br | C6H7BrN2
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | 5-bromo-7-methylimidazo[1,2-a]pyridine | 2.95 g, 76% | BrC1=CC(=CC=2N1C=CN2)C | C8H7BrN2
